US09034851B2
Step E: Methyl2-(5-(bis(4-methoxyphenyl)methylcarbamoyl)-4-hydroxypyrimidine-2carboxamido)acetate (2-17-f)
The mixture of compound 2-17-e (2.5 g, 6.1 mmol), methyl 2-aminoacetate hydrochloride (0.92 g, 7.3 mmol), TBTU (2.4 g, 7.3 mmol), DIPEA (1.6 g, 12.2 mmol) in DMSO (15 mL) and stirred at the ambient temperature overnight. Ice-water was then added to the reaction mixture and filtered. The cake was purified by column chromatography with DCM:MeOH=100:1˜50:1 to obtain the product, 2-17-f, (630 mg, 22%). LC-MS: (M+H)+ 481.

reactant | 5-(bis(4-methoxyphenyl)methylcarbamoyl)-4-hydroxypyrimidine-2-carboxylic acid | 6.1 mmol, 2.5 g | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC(=O)C=1C(=NC(=NC1)C(=O)O)O | C21H19N3O6
reactant | methyl 2-aminoacetate hydrochloride | 7.3 mmol, 0.92 g | Cl.NCC(=O)OC
reactant | TBTU | 7.3 mmol, 2.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 12.2 mmol, 1.6 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | Methyl2-(5-(bis(4-methoxyphenyl)methylcarbamoyl)-4-hydroxypyrimidine-2carboxamido)acetate | COC(CNC(=O)C1=NC=C(C(=N1)O)C(NC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O)=O | C24H24N4O7
